US04668697
Step B: Preparation of 6-(2-methyldioxolan-2-yl) benzo[b]thiophene
A mixture of 6-acetyl benzo[b]thiophene (10.57 g, 60 mmole), p-toluenesulfonic acid (1.65 g) and ethylene glycol (33 ml) was heated to reflux in toluene (250 ml) for 2 hours with the continuous removal of H2O using a Dean-Stark trap. The reaction mixture was allowed to cool to room temperature. Then extracted with 20% saturated NaHCO3 (150 ml) and H2O (2×150 ml). After drying over Na2SO4, the solvent was evaporated in vacuo and the residue was crystallized from hexanes (50 ml) yielding 9.66 g (73%) of product.

reactant | 6-acetyl benzo[b]thiophene | 60 mmole, 10.57 g | C(C)(=O)C=1C=CC2=C(SC=C2)C1 | C10H8OS
reactant | p-toluenesulfonic acid | 1.65 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 33 ml | C(CO)O | C2H6O2
reactant | H2O | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2-methyldioxolan-2-yl) benzo[b]thiophene | 9.66 g, 73% | CC1(OCCO1)C=1C=CC2=C(SC=C2)C1 | C12H12O2S
